### ISSUE TITLE
(No equational lemmas)/(Mistaken as field notation) when using a `namespace` inside a `section` with universe polymorphism

### ISSUE THREAD

**Issue by winestone** [leanprover-community/lean#613]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover-community/lean/issues).
        * Specifically, check out the [wishlist](https://github.com/leanprover-community/lean/issues?q=is%3Aissue+is%3Aopen+label%3AI-wishlist), open [RFCs](https://github.com/leanprover-community/lean/issues?q=is%3Aissue+is%3Aopen+label%3ARFC),
        or [feature requests](https://github.com/leanprover-community/lean/issues?q=is%3Aissue+is%3Aopen+label%3AFeature).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

Allowing a `namespace` inside a `section` can cause compile issues.

### Steps to Reproduce

1. Compile the following code:
    ```lean
    section
      universes u

      inductive my_unit : Type u
      | foo

      namespace my_unit
        def one : ℕ := 1
      end my_unit

      lemma test : my_unit.one = 1 := by refl
    end
    ```

**Expected behavior:** Code compiles, in particular, `my_unit.one` isn't treated as field notation.

**Actual behavior:** Obtain error message:
```
invalid field notation, type is not of the form (C ...) where C is a constant
  my_unit
has type
  Type u
```

**Reproduces how often:** 100%

### Versions

- Lean (version 3.32.1, commit 35b3a9c4e2d3, Release)

### Additional Information

If you rephrase the code, you can also get another issue which I think is related:
```lean
section
  universes u

  inductive my_unit : Type u
  | foo

  def my_unit.one (_ : my_unit) : ℕ := 1

  lemma test : my_unit.one my_unit.foo = 1 := by unfold my_unit.one
end
```
gives:
```
unfold tactic failed, my_unit.one does not have equational lemmas nor is a projection
state:
⊢ my_unit.foo.one = 1
```

There some small adjustments I've been able to make to get either example to compile. I think the second qualifies as a workaround.
- Don't use universe polymorphism.
  ```lean
  section
    inductive my_unit : Type
    | foo

    namespace my_unit
      def one : ℕ := 1
    end my_unit

    lemma test : my_unit.one = 1 := by refl
  end
  ```
- Move the `namespace` out of the `section`.
  ```lean
  section
    universes u

    inductive my_unit : Type u
    | foo
  end

  namespace my_unit
    universes u
    def one : ℕ := 1
    -- other code which uses `u`
  end my_unit

  section
    universes u
    lemma test : my_unit.one = 1 := by refl
  end
  ```

Hopefully I haven't made any mistakes or missed an issue/PR, I couldn't find anything related when searching for both "namespace" and "section".
